US07220744B2
Rac-5-Methanesulfonyl-2-(2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid
Prepared in analogy to Example A1 (b) from 2-chloro-5-methanesulfonyl-benzoic acid (Example A1(a)) and rac-1,1,1-trifluoro-propan-2-ol. The crude material was purified by preparative HPLC to yield the title compound as a white solid. MS (m/e): 311.3 ([M−H]−, 100%).

reactant | 2-chloro-5-methanesulfonyl-benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7ClO4S
reactant | rac-1,1,1-trifluoro-propan-2-ol | FC(C(C)O)(F)F | C3H5F3O
product | Rac-5-Methanesulfonyl-2-(2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid | CS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OC(C(F)(F)F)C | C11H11F3O5S
